US06013663
(R)-N-[5-(1,2-Dithiolan-3-yl)pentanoyl]methanesulfonamide (Compound No. 1-496)
110 mg of (R)-α-lipoic acid were dissolved in 2 ml of anhydrous dimethylformamide, and 97 mg of N,N'-carbonyldiimidazole were added to the solution, whilst ice-cooling. The mixture was then stirred at room temperature for 4 hours. At the end of this time, 57 mg of methanesulfonamide and 26 mg of sodium hydride (as a 55% w/w dispersion in mineral oil) were added to the reaction mixture, whilst ice-cooling, and the mixture was stirred at room temperature for 5 hours and then left to stand overnight. The solvent was then removed from the reaction mixture by evaporation under reduced pressure, and water was added to the residue this obtained. The resulting mixture was neutralized by the addition of 2 N aqueous hydrochloric acid, after which it was extracted with ethyl acetate. The extraction solution was washed with a saturated aqueous solution of sodium chloride and then dried over anhydrous sodium sulfate. The solvent was removed from the extraction solution by evaporation under reduced pressure. The residue thus obtained was purified by silica gel column chromatography, using 1:1 and 3:1 by volume mixtures of ethyl acetate and hexane as eluent, after which it was dissolved in dioxane and lyophilised, to obtain 68 mg of the title compound, melting at 71° C. to 73° C.

reactant | (R)-α-lipoic acid | 110 mg | C1CSS[C@@H]1CCCCC(=O)O | C8H14O2S2
reactant | methanesulfonamide | 57 mg | CS(=O)(=O)N | CH5NO2S
reactant | sodium hydride | 26 mg | [H-].[Na+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (R)-N-[5-(1,2-Dithiolan-3-yl)pentanoyl]methanesulfonamide | 68 mg | S1S[C@@H](CC1)CCCCC(=O)NS(=O)(=O)C | C9H17NO3S3
